US05616573
21 mmol of betamethasone-17-valerate is reacted with 25 mmol of Boc-valine (Boc-Val-OH), 2.5 mmol of 4-dimethylaminopyridine and 27 mmol of dicyclohexylcarbodiimidazole in dichloromethane/dioxane 1:1 analogously to Example 1. Chromatography (1. ethyl acetate/hexane 2:1 and 2. ethyl acetate/hexane 1:1) yields 10.1 g (73%) of pure (2S)-2-((1,1-dimethylethoxycarbonyl)-amino)-3-methyl-butyric acid [11β,21-dihydroxy-3,20-dioxo-9-fluoro-16β-methyl-17-valeroyloxy-pregna -1,4-dien-21-yl] ester as foam.

reactant | betamethasone-17-valerate | 21 mmol | CCCCC(=O)O[C@@]1([C@H](C[C@@H]2[C@@]1(C[C@@H]([C@]3([C@H]2CCC4=CC(=O)C=C[C@@]43C)F)O)C)C)C(=O)CO | C27H37FO6
reactant | Boc-valine | 25 mmol | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
catalyst | 4-dimethylaminopyridine | 2.5 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane dioxane | ClCCl.O1CCOCC1
product | (2S)-2-((1,1-dimethylethoxycarbonyl)-amino)-3-methyl-butyric acid [11β,21-dihydroxy-3,20-dioxo-9-fluoro-16β-methyl-17-valeroyloxy-pregna -1,4-dien-21-yl] ester | 10.1 g, 73% | O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@@H]([C@](C(C(O)OC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)([C@]2(C1)C)OC(CCCC)=O)C)=O)C)F | C37H54FNO10
